US09233979B2
A mixture of 4,6-dichloro-2-(methoxymethyl)nicotinonitrile (75.7 mg, 0.349 mmol), (R)-1-(1-phenylethyl)urea (77 mg, 0.469 mmol) and Xantphos G2 (39 mg, 0.044 mmol) in THF (2 ml) was sealed, sparged with argon, charged with triethylamine (0.17 ml, 1.220 mmol) and heated to 50° C. for 17 hr. The mixture was cooled and filtered through celite, eluted with EtOAc before it was concentrated in vacuo and purified via flash chromatography (25-100% Et2O/hexane) to provide (R)-1-(4-chloro-5-cyano-6-(methoxymethyl)pyridin-2-yl)-3-(1-phenylethyl)urea. MS ESI calc'd for C17H18ClN4O2 [M+H]+ 345. found 345.

reactant | 4,6-dichloro-2-(methoxymethyl)nicotinonitrile | 0.349 mmol, 75.7 mg | ClC1=CC(=NC(=C1C#N)COC)Cl | C8H6Cl2N2O
reactant | (R)-1-(1-phenylethyl)urea | 0.469 mmol, 77 mg | C1(=CC=CC=C1)[C@@H](C)NC(=O)N | C9H12N2O
reactant | Xantphos | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | triethylamine | 1.220 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (R)-1-(4-chloro-5-cyano-6-(methoxymethyl)pyridin-2-yl)-3-(1-phenylethyl)urea | ClC1=CC(=NC(=C1C#N)COC)NC(=O)N[C@H](C)C1=CC=CC=C1 | C17H17ClN4O2
